US05374641
To 10 ml of the solution of 0.62 g of methyl 4-[3-formamido-3-(3-pyridyl)propyl]benzoate methanol-1,4 dioxane (1:1) was added 5 ml of 4% sulfuric acid, and stirred under heating at 60° C. overnight, which was then poured into saturated aqueous sodium hydrogencarbonate solution to be extracted with ethyl acetate. The obtained ethyl acetate phase was washed in saturated aqueous sodium chloride and dried over magnesium sulfate, to distill off the solvent, so that 0.35 g of methyl 4-[3-amino-3-(3-pyridyl)propyl]benzoate was yielded.

reactant | methyl 4-[3-formamido-3-(3-pyridyl)propyl]benzoate methanol-1,4 dioxane | 0.62 g | O1CCOCC1.CO.C(=O)NC(CCC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | methyl 4-[3-amino-3-(3-pyridyl)propyl]benzoate | 0.35 g | NC(CCC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C16H18N2O2
